US06624163B2
N-(4-Methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-4-[(3-methoxy-propionylamino)-methyl]-benzamide
Using N-(4-methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-4-aminomethyl-benzamide and 3-methoxy-propionyl chloride, the title compound was prepared as white crystals (44% yield). MS: m/e=485(M+H+).

reactant | N-(4-methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-4-aminomethyl-benzamide | COC1=CC=C(C2=C1N=C(S2)NC(C2=CC=C(C=C2)CN)=O)N2CCOCC2 | C20H22N4O3S
reactant | 3-methoxy-propionyl chloride | COCCC(=O)Cl | C4H7ClO2
product | N-(4-Methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-4-[(3-methoxy-propionylamino)-methyl]-benzamide | COC1=CC=C(C2=C1N=C(S2)NC(C2=CC=C(C=C2)CNC(CCOC)=O)=O)N2CCOCC2 | C24H28N4O5S
